US05486525
To a suspension in diethyl ether (50 mL) of 5-chloro-2-nitroaniline (2.70 g, 15.6 mmol) was added zinc powder (10.2 g, 156 mmol) in portions. The reaction mixture was filtered and concentrated in vacuo to give 5-chloro-2-aminoaniline which as was used without further purification.

reactant | 5-chloro-2-nitroaniline | 15.6 mmol, 2.70 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | zinc | 156 mmol, 10.2 g | [Zn] | Zn
product | 5-chloro-2-aminoaniline | ClC=1C=CC(=C(N)C1)N | C6H7ClN2
